US06992087B2
benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.49, 7.40-7.25, 5.20-5.13, 4.73, 4.10, 3.98, 3.77-3.59, 3.53-3.30, 2.70, 2.46, 1.27, 1.15; HRMS (FAB) calcd for C28H32Cl2N4O3+H 543.1929, found 543.1913. Anal. Calcd for C28H32Cl2N4O3: C, 61.88; H, 5.93; N, 10.31. Found: C, 62.07; H, 6.14; N, 10.16.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1)CC | C26H28Cl2N4O3
product | benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC | C28H32Cl2N4O3
